Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.09027177472
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],1.44860998459
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],7.98800241662
[H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.3741372369
[H:1][C:2]=[C:3]([H:4])[C:5]1=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],3.14947089201
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.64235995475
[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.21183495365
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],5.52682053494
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:9]([H:10])([H:11])=[C:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],1.3941802982799998
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]=[O:9].[H:10],3.96952122856
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],4.5864956218
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],1.46568138317
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.86847831148
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],3.7069932748
[C:1].[C:2](#[C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.1558393119800003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:6],1.6861890821099998
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.160326165040001
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1],5.76748382064
[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](#[C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],3.73695680583
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][H:4],1.21790125397
[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9],-8.197403868810001
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.44888432803
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][H:5],1.48251471812
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-5.69084734737
[H:1][C:2][O:3][C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],0.7385174163
[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[H:12].[O:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.991953447031
[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[O:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.78704748039
[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.76320734911
